US06699861B1
tert-Butyl 4-[N-[2-Acetoxymethyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl]amino]benzoate
2-Acetoxymethyl-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4,6-dione (0.140 g, 0.36 mmol) was suspended in anhydrous methanol (8 ml) and then anhydrous dichoromethane (4 ml) was added until a clear solution was obtained. Tert-butyl 4-aminobenzoate (0.084 g, 0.44 mmol) was then added followed by decaborane (0.014 g, 0.12 mmol). The reaction mixture was stirred overnight at room temperature under argon. The solvent was removed in vaciio, and the residue was purified by column chromatography on elution with 40% ethyl acetate in hexane. The product was obtained as a glass (0.127 g, 63%) 1H-NMR (CDCl3) 1.20 (s, 9H, POM C(CH3)3), 1.58 (s, 9H, CO2C(CH3)3), 2.20 (s, 3H, CH3CO), 2.02, 2.72 (2×m, 2H, 7-CH2), 3.13 (m, 2H, 8-CH2), 4.36 (d, J=7.7 Hz, 1H, NH), 5.15 (q, J=6.8 Hz, 1H, 6-H), 5.21 (s, 2H, 2-CH2), 6.12 (AB system, J=10.7 Hz, 2H, POM CH2), 6.67 (d, J=8.8 Hz, 2H, 3,5′-ArH), 7.57 (s, 1H, 9-H), 7.85 (d, J=8.9 Hz, 2H, 2′,6′-ArH), 8.25 (s, 1H, 5-H); MS (ESI, m/z) 564 (M+H)+.

reactant | 2-Acetoxymethyl-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4,6-dione | 0.36 mmol, 0.140 g | C(C)(=O)OCC1=NC2=CC3=C(C=C2C(N1COC(C(C)(C)C)=O)=O)C(CC3)=O | C20H22N2O6
reactant | dichoromethane | 4 ml | ClCCl | CH2Cl2
reactant | Tert-butyl 4-aminobenzoate | 0.44 mmol, 0.084 g | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
reactant | decaborane | 0.12 mmol, 0.014 g | [B][B][B][B][B][B][B][B][B][B] | B10
solvent | methanol | 8 ml | CO | CH4O
product | tert-Butyl 4-[N-[2-Acetoxymethyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl]amino]benzoate | 0.127 g, 63% | C(C)(=O)OCC1=NC2=CC3=C(C=C2C(N1COC(C(C)(C)C)=O)=O)C(CC3)NC3=CC=C(C(=O)OC(C)(C)C)C=C3 | C31H37N3O7
